US09120777B2
C) 4-Cyclopropyl-3-fluoro-2-hydroxybenzaldehyde
Boron tribromide (1 M dichloromethane solution, 18.5 mL) was added at −78 C to a dichloromethane (70 mL) solution of 4-cyclopropyl-3-fluoro-2-methoxybenzaldehyde (1.79 g), and the mixture was stirred at the same temperature as above for 2 hours in a nitrogen atmosphere and then stirred at 0 C for 1 hour. A saturated aqueous solution of sodium bicarbonate was added to the reaction mixture at 0 C, and dichloromethane was distilled off under reduced pressure. The obtained residue was subjected to extraction with ethyl acetate. The obtained organic layer was washed with water and saturated saline in this order and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.50 g).

reactant | Boron tribromide | 1 M, 18.5 mL | B(Br)(Br)Br | BBr3
reactant | 4-cyclopropyl-3-fluoro-2-methoxybenzaldehyde | 1.79 g | C1(CC1)C1=C(C(=C(C=O)C=C1)OC)F | C11H11FO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 4-Cyclopropyl-3-fluoro-2-hydroxybenzaldehyde | 1.50 g | C1(CC1)C1=C(C(=C(C=O)C=C1)O)F | C10H9FO2
